US08685974B2
A mixture of 1-(4-bromo-2-thienyl)ethanone (48.8 mmol) and N,N-dimethylformamide dimethyl acetal (73.1 mmol) was refluxed overnight and then allowed to cool to room temperature. The reaction mixture was concentrated under reduced pressure and dried in vacuo to afford 12.6 g (99% yield) of 1-(4-bromo-2-thienyl)-3-(dimethylamino)prop-2-en-1-one which was used in the next step without further purification.

reactant | 1-(4-bromo-2-thienyl)ethanone | 48.8 mmol | BrC=1C=C(SC1)C(C)=O | C6H5BrOS
reactant | N,N-dimethylformamide dimethyl acetal | 73.1 mmol | COC(N(C)C)OC | C5H13NO2
product | 1-(4-bromo-2-thienyl)-3-(dimethylamino)prop-2-en-1-one | 12.6 g, 99% yield | BrC=1C=C(SC1)C(C=CN(C)C)=O | C9H10BrNOS
